US08258316B2
To 2-(2)-oxopyrrolidin-1-ylpropanoic acid (0.95 g, 6.04 mmol) in DMF (5 mL) was added HATU (3.2 g, 8.5 mmol), tert-butyl 4-aminobenzoate (1.2 g, 2.12 mmol) and NMM (1.4 mL, 13.30 mmol). The reaction mixture was stirred at 55° C. for 2 hours and then diluted with Acetonitrile/water (2:1, 30 mL) and the resulting solid was stirred and filtered and washed with water and dried to give tert-butyl 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoate which was used for the next step with out purification.

reactant | HATU | 8.5 mmol, 3.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 4-aminobenzoate | 2.12 mmol, 1.2 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | NMM | 13.30 mmol, 1.4 mL | CN1CCOCC1 | C5H11NO
reactant | Acetonitrile water | 30 mL | C(C)#N.O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-(2-oxopyrrolidin-1-yl)propanamido)benzoate | O=C1N(CCC1)C(C(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C18H24N2O4
